### PR TITLE
Mayer-Vietoris and some cohomology groups

### PR DESCRIPTION
**Pull request by aljungstrom**
This PR contains
- The Mayer-Vietoris sequence. Unfortunately, it's only the unreduced version of it. It is pretty much a direct translation of the proof in Brunerie 2016.
- Cohomology groups. In particular of n-spheres, the torus and wedges of some particular spheres.
- A slightly shorter version of the basechange operation of loop spaces over S¹.
- Some tiny lemmas and definitions concerning groups. In particular, I have rewritten quite a few things using copatterns in order to speed things up a bit. 

EDIT: 
Now also removes eta from many of the records in Structures.

### CODE REVIEW

**Comment by aljungstrom** [comment]
> It took me a while to go through everything but it’s great!
> Maybe some experiments of trying compute a few things with cohomology could be put somewhere?

Thank you very much for going through this mess... I will fix everything later this week. I will need to make it agree with all the new pretty extensive PRs,  but hopefully this shouldn't cause any problems.

File: Cubical/Data/Group/Base.agda [hunk 1]
```diff
@@ -137,128 +203,285 @@ leftist-group : ∀ {ℓ} {A : Type ℓ} (Aset : isSet A)
...
+assoc (groupStruc intGroup) a b c = sym (+-assoc a b c)
+lCancel (groupStruc intGroup) a = minusPlus a 0
+rCancel (groupStruc intGroup) a = +-comm a (pos 0 - a) ∙ minusPlus a 0
+
+dirProd : ∀ {ℓ ℓ'} (A : Group ℓ) (B : Group ℓ') → Group (ℓ-max ℓ ℓ')
+type (dirProd A B) = type A × type B
+setStruc (dirProd A B) = isOfHLevelProd 2 (setStruc A) (setStruc B)
+id (groupStruc (dirProd A B)) = id (groupStruc A) , id (groupStruc B)
+inv (groupStruc (dirProd A B)) = ×Inv
+  where
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Data/Group/Base.agda:414]: Oh yeah, this comes from my confusion with mixing copatterns and pattern matching I think...

File: Cubical/ZCohomology/Groups/Sn.agda [hunk 2]
```diff
@@ -0,0 +1,422 @@
...
+open import Cubical.Data.Nat
+open import Cubical.Data.Prod
+open import Cubical.HITs.Truncation renaming (elim to trElim ; map to trMap ; rec to trRec)
+open import Cubical.Data.Unit
+open import Cubical.Data.Group.Base renaming (Iso to grIso ; compIso to compGrIso ; invIso to invGrIso ; idIso to idGrIso)
+open import Cubical.Data.Group.Properties
+
+
+
+H⁰-Sⁿ≅ℤ : (n : ℕ) → grIso (coHomGr 0 (S₊ (suc n))) intGroup
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/ZCohomology/Groups/Sn.agda:36]: Ah yeah, this pretty much a one-liner... I didn't think of this. Nice! I will include it. I think I'll use the definition of connectedness in terms of mere existence of paths instead of the definition in the library in that case. Otherwise, if I use the definition of connectedness in the library, the proof will rely on PathIdTrunc from Truncation.Properties, which I suspect could slow things down a bit.

File: Cubical/ZCohomology/Groups/Unit.agda [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+                             (sElim2 (λ _ _ → isOfHLevelPath 2 isSetInt _ _)
+                                     (λ a b → addLemma (a tt) (b tt)))
+grIso.inv H⁰-Unit≅ℤ = mph (λ a → ∣ (λ _ → a) ∣₂) (λ a b i → ∣ (λ _ → addLemma a b (~ i)) ∣₂)
+grIso.rightInv H⁰-Unit≅ℤ a = refl
+grIso.leftInv H⁰-Unit≅ℤ = sElim (λ _ → isOfHLevelPath 2 setTruncIsSet _ _) λ a → refl
+
+
+{- Hⁿ(Unit) for n ≥ 1 -}
+isContrHⁿ-Unit : (n : ℕ) → isContr (coHom (suc n) Unit)
+isContrHⁿ-Unit n = subst isContr (λ i → ∥ UnitToTypeId (coHomK (suc n)) (~ i) ∥₂) (helper' n)
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/ZCohomology/Groups/Unit.agda:32]: Everything was moved up 2 levels to agree with hLevelTrunc in some previous PR I think

File: Cubical/ZCohomology/MayerVietorisUnreduced.agda [hunk 4]
```diff
@@ -0,0 +1,327 @@
...
+  dHomHelper n h l (inl x) = sym (lUnitₖ 0ₖ)
+  dHomHelper n h l (inr x) = sym (lUnitₖ 0ₖ)
+  dHomHelper zero h l (push a i) j = dHomHelperPath zero h l a i j
+  dHomHelper (suc n) h l (push a i) j = dHomHelperPath (suc n) h l a i j
+
+  dIsHom : (n : ℕ) → isMorph (coHomGr n C) (coHomGr (suc n) (Pushout f g)) (sRec setTruncIsSet λ a → ∣ d-pre n a ∣₂)
+  dIsHom zero = sElim2 (λ _ _ → isOfHLevelPath 2 setTruncIsSet _ _)
+                   λ f g i → ∣ funExt (λ x → dHomHelper zero f g x) i ∣₂
+  dIsHom (suc n) = sElim2 (λ _ _ → isOfHLevelPath 2 setTruncIsSet _ _)
+                   λ f g i → ∣ funExt (λ x → dHomHelper (suc n) f g x) i ∣₂
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/ZCohomology/MayerVietorisUnreduced.agda:114]: I think this comes from from the fact that addition was defined by pattern matching which always forces me to use pattern matching here. It's super annoying... Is there a way to circumvent this?

File: Cubical/ZCohomology/Groups/Unit.agda (hunk 3 above)
[the remark this answers is not in the document]
Comment (guillaumebrunerie) [reply Cubical/ZCohomology/Groups/Unit.agda:32]: Ok, but I think I’ve seen ∥_∥₋₁ for the propositional truncation in your pull request somewhere, which is not consistent with that.

File: Cubical/ZCohomology/MayerVietorisUnreduced.agda (hunk 4 above)
[the remark this answers is not in the document]
Comment (guillaumebrunerie) [reply Cubical/ZCohomology/MayerVietorisUnreduced.agda:114]: Maybe not, although I’m not sure where addition comes into play here?

File: Cubical/Data/Group/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,144 @@
+{-# OPTIONS --cubical --no-import-sorts --safe #-}
+
+module Cubical.Data.Group.Properties where
+
+open import Cubical.Foundations.Prelude hiding (comp)
+open import Cubical.Foundations.HLevels
+open import Cubical.Data.Prod
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Data/Group/Properties.agda:7]: > It took me a while to go through everything but it’s great!
> Maybe some experiments of trying compute a few things with cohomology could be put somewhere?

The problem with having examples is that they need to be computed ignoring abstracts. Is there any way of entering this a rule in the code?

File: Cubical/Data/Group/Base.agda [hunk 6]
```diff
@@ -21,19 +25,81 @@ record isGroup {ℓ} (A : Type ℓ) : Type ℓ where
...
 
 record Group ℓ : Type (ℓ-suc ℓ) where
+  no-eta-equality
   constructor group
   field
     type : Type ℓ
     setStruc : isSet type
     groupStruc : isGroup type
 
 isMorph : ∀ {ℓ ℓ'} (G : Group ℓ) (H : Group ℓ') → (f : (Group.type G → Group.type H)) → Type (ℓ-max ℓ ℓ')
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Data/Group/Base.agda:35]: I don't dare to change this now that all the new crazy stuff about structures that's been added. But maybe this could be added as a lemma in the Morph record in the future. I'll skip this for now if you don't mind.

**Comment by aljungstrom** [comment]
@guillaumebrunerie @mortberg 
Fixed everything according to Guillaume's comments. I think it should be ok to merge now.

**Comment by mortberg** [comment]
Great! Thanks to @guillaumebrunerie for commenting on the code. I'll take a look at it now and see if there's anything left to fix. In the future please make many small PRs instead of one huge like this :-)

File: Cubical/Data/Prod/Properties.agda [hunk 7]
```diff
@@ -20,6 +20,9 @@ private
 
 -- Swapping is an equivalence
 
+×≡ : {a b : A × B} → proj₁ a ≡ proj₁ b → proj₂ a ≡ proj₂ b → a ≡ b
+×≡ {a = (a1 , b1)} {b = (a2 , b2)} id1 id2 i = (id1 i) , (id2 i)
```
Comment (mortberg) [inline Cubical/Data/Prod/Properties.agda:24]: Do you really need to match on a and b?

File: Cubical/Data/Sigma/Properties.agda [hunk 8]
```diff
@@ -237,3 +241,45 @@ PathΣ→ΣPathTransport a b = invEq (ΣPathTransport≃PathΣ a b)
...
   isom .rightInv _ = refl
   isom .leftInv (a , b) = cong (a ,_) (c a .snd b)
+
+
+≃-× : ∀ {ℓ'' ℓ'''} {A : Type ℓ} {B : Type ℓ'} {C : Type ℓ''} {D : Type ℓ'''} → A ≃ C → B ≃ D → A × B ≃ C × D
+≃-× eq1 eq2 =
+    map-× (fst eq1) (fst eq2)
+  , record
+     { equiv-proof
+       = λ {(c , d) → ((equiv-proof (eq1 .snd) c .fst .fst
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:251]: Please clean this by giving local names to `equiv-proof (eq1 .snd)`, etc.

File: Cubical/Data/Unit/Properties.agda [hunk 9]
```diff
@@ -25,13 +26,28 @@ isSetUnit = isProp→isSet isPropUnit
 isOfHLevelUnit : (n : HLevel) → isOfHLevel n Unit
 isOfHLevelUnit n = isContr→isOfHLevel n isContrUnit
 
+UnitToTypeId : ∀ {ℓ} (A : Type ℓ) → (Unit → A) ≡ A
+UnitToTypeId A = isoToPath (iso (λ f → f tt) (λ a _ → a) (λ _ → refl) λ _ → refl)
+
+ContrToTypeIso : ∀ {ℓ ℓ'} {A : Type ℓ} {B : Type ℓ'} → isContr A → Iso (A → B) B
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:32]: Naming: `isContr\toIso`

File: Cubical/Data/Unit/Properties.agda [hunk 10]
```diff
@@ -25,13 +26,28 @@ isSetUnit = isProp→isSet isPropUnit
 isOfHLevelUnit : (n : HLevel) → isOfHLevel n Unit
 isOfHLevelUnit n = isContr→isOfHLevel n isContrUnit
 
+UnitToTypeId : ∀ {ℓ} (A : Type ℓ) → (Unit → A) ≡ A
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:29]: Replace Id by Path?

File: Cubical/Data/Unit/Properties.agda [hunk 11]
```diff
@@ -25,13 +26,28 @@ isSetUnit = isProp→isSet isPropUnit
...
+  isoToPath
+    (iso fst
+         (λ a → a , refl)
+         (λ _ → refl)
+         (λ a i → fst a
+                 , isOfHLevelSuc 1 isPropUnit _ _ (snd a) refl i))
+isContr→≃Unit : ∀ {ℓ} {A : Type ℓ} → isContr A → A ≃ Unit
+isContr→≃Unit contr = isoToEquiv (iso (λ _ → tt) (λ _ → fst contr) (λ _ → refl) λ _ → snd contr _)
+
+isContr→≡Unit : {A : Type₀} → isContr A → A ≡ Unit
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:52]: Apply ua to `isContr→≃Unit` instead?

File: Cubical/Data/Unit/Properties.agda [hunk 12]
```diff
@@ -25,13 +26,28 @@ isSetUnit = isProp→isSet isPropUnit
...
-                 (λ a i → fst a
-                         , isOfHLevelSuc 1 isPropUnit _ _ (snd a) refl i))
+fibId A =
+  isoToPath
+    (iso fst
+         (λ a → a , refl)
+         (λ _ → refl)
+         (λ a i → fst a
+                 , isOfHLevelSuc 1 isPropUnit _ _ (snd a) refl i))
+isContr→≃Unit : ∀ {ℓ} {A : Type ℓ} → isContr A → A ≃ Unit
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:49]: Please add a space above this

File: Cubical/Foundations/Isomorphism.agda [hunk 13]
```diff
@@ -125,6 +125,11 @@ rightInv (compIso (iso _ _ rightInv _) (iso g ginv rightInv' _)) b =
 leftInv (compIso (iso f finv _ leftInv) (iso _ _ _ leftInv')) a =
   cong finv (leftInv' (f a)) ∙ leftInv a
 
+infixr 33 _⋄_
+
+_⋄_ : _
+_⋄_ = compIso
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda:131]: I'm not sure I like this notation... Can we please add this in a separate PR? It should change most uses of compIso as well...

File: Cubical/Foundations/Prelude.agda [hunk 14]
```diff
@@ -160,6 +161,17 @@ compPathP {A = A} {x = x} {B = B} p q i =
...
        (p i)
 
+
+compPathP' : ∀ {ℓ ℓ'} {A : Type ℓ} {B : A → Type ℓ'} {x y z : A} {x' : B x} {y' : B y} {z' : B z} {p : x ≡ y} {q : y ≡ z}
+             (P : PathP (λ i → B (p i)) x' y') (Q : PathP (λ i → B (q i)) y' z')
+          → PathP (λ i → B ((p ∙ q) i)) x' z'
+compPathP' {B = B} {x' = x'} {p = p} {q = q} P Q i =
+  comp (λ j → B (compPath-filler p q j i))
+       (λ j → λ { (i = i0) → x'  ;
+                   (i = i1) → Q j })
```
Comment (mortberg) [inline Cubical/Foundations/Prelude.agda:171]: indentation

File: Cubical/Foundations/Prelude.agda [hunk 15]
```diff
@@ -169,6 +181,18 @@ compPathP-filler {A = A} {x = x} {B = B} p q j i =
...
 
+
+
+compPathP'-filler : ∀ {ℓ ℓ'} {A : Type ℓ} {B : A → Type ℓ'} {x y z : A} {x' : B x} {y' : B y} {z' : B z} {p : x ≡ y} {q : y ≡ z}
+             (P : PathP (λ i → B (p i)) x' y') (Q : PathP (λ i → B (q i)) y' z')
+          → PathP (λ j → PathP (λ i → B (compPath-filler p q j i)) x' (Q j)) P (compPathP' {x = x} {y = y} {x' = x'} {y' = y'} P Q)
+compPathP'-filler {B = B} {x' = x'} {p = p} {q = q} P Q j i =
+  fill (λ j → B (compPath-filler p q j i))
+        (λ j → λ { (i = i0) → x'  ;
+                    (i = i1) → Q j })
```
Comment (mortberg) [inline Cubical/Foundations/Prelude.agda:192]: Indentation. 

And why not define compPathP' in terms of this?

File: Cubical/Foundations/Prelude.agda [hunk 16]
```diff
@@ -160,6 +161,17 @@ compPathP {A = A} {x = x} {B = B} p q i =
                   (i = i1) → q j })
        (p i)
 
+
+compPathP' : ∀ {ℓ ℓ'} {A : Type ℓ} {B : A → Type ℓ'} {x y z : A} {x' : B x} {y' : B y} {z' : B z} {p : x ≡ y} {q : y ≡ z}
```
Comment (mortberg) [inline Cubical/Foundations/Prelude.agda:165]: I'm starting to this that all of these different version of compPath should be moved to Foundations.Path. Don't do it in this PR, but it might be good to do so that the Prelude is smaller

File: Cubical/HITs/S1/Base.agda [hunk 17]
```diff
@@ -248,6 +260,62 @@ basedΩS¹≡Int : (x : S¹) → basedΩS¹ x ≡ Int
 basedΩS¹≡Int x = (basedΩS¹≡ΩS¹ x) ∙ ΩS¹≡Int
 
 
+---- Alternative proof of the same thing -----
```
Comment (mortberg) [inline Cubical/HITs/S1/Base.agda:263]: Which proof is better? If one is not as good then it should be put in a private

File: Cubical/HITs/SetTruncation/Properties.agda [hunk 18]
```diff
@@ -92,3 +107,53 @@ setSigmaIso {A = A} {B = B} = iso fun funinv sect retr
...
+        → ((x : ∥ A ∥₂ × ∥ B ∥₂) → isOfHLevel 2 (C x))
+        → ((a : A) (b : B) → C (∣ a ∣₂ , ∣ b ∣₂))
+        → (x : ∥ A ∥₂ × ∥ B ∥₂) → C x
+prodElim {A = A} {B = B} {C = C} hlevel ind (a , b) = schonf a b
+  where
+  schonf : (a : ∥ A ∥₂) (b : ∥ B ∥₂) → C (a , b)
+  schonf = elim (λ x → isOfHLevelΠ 2 λ y → hlevel (_ , _)) λ a → elim (λ x → hlevel (_ , _))
+                 λ b → ind a b
+
+prodElim2 : ∀ {ℓ ℓ' ℓ'' ℓ''' ℓ''''} {A : Type ℓ} {B : Type ℓ'} {C : Type ℓ''} {D : Type ℓ'''}
```
Comment (mortberg) [inline Cubical/HITs/SetTruncation/Properties.agda:141]: Can you please move all of these levels to a private variable at the top and make the definitions in the file use them?

File: Cubical/Structures/AbGroup.agda [hunk 19]
```diff
@@ -116,8 +117,27 @@ module AbGroupΣTheory {ℓ} where
   AbGroupΣ→AbGroup (_ , _ , G , C) =
     abgroup _ _ _ _ (isabgroup (GroupΣ→Group (_ , _ , G) .Group.isGroup) C)
 
+  open AbGroup
+  open IsAbGroup
+  open Monoid
+  open IsMonoid
+  open IsGroup
```
Comment (mortberg) [inline Cubical/Structures/AbGroup.agda:124]: Why do you need to open all of these? Should "open AbGroup" be enough?

File: Cubical/Structures/CommRing.agda [hunk 20]
```diff
@@ -127,7 +127,37 @@ module CommRingΣTheory {ℓ} where
...
+
+    where
+    open import Cubical.Structures.Group.Base hiding (⟨_⟩)
+    open CommRing
+    open IsCommRing
+    open IsGroup
+    open Group
+    open IsMonoid
+    open IsAbGroup
+    open IsRing
```
Comment (mortberg) [inline Cubical/Structures/CommRing.agda:140]: Same here

File: Cubical/Structures/CommRing.agda [hunk 21]
```diff
@@ -127,7 +127,37 @@ module CommRingΣTheory {ℓ} where
...
+
+    helper : _
```
Comment (mortberg) [inline Cubical/Structures/CommRing.agda:142]: You never use helper?

File: Cubical/Structures/Group/Algebra.agda [hunk 22]
```diff
@@ -0,0 +1,229 @@
...
+  isInj-f x y p = sym (leftInv f _) ∙∙ cong g p ∙∙ leftInv f _
+
+invGroupIso : {G : Group {ℓ}} {H : Group {ℓ'}} → GroupIso G H → GroupIso H G
+fun (map (invGroupIso iso1)) = inv iso1
+isHom (map (invGroupIso iso1)) = isGroupHomInv' iso1
+inv (invGroupIso iso1) = fun (map iso1)
+rightInv (invGroupIso iso1) = leftInv iso1
+leftInv (invGroupIso iso1) = rightInv iso1
+
+_◆_ : _
```
Comment (mortberg) [inline Cubical/Structures/Group/Algebra.agda:139]: Do you use this notation?

File: Cubical/Structures/Group/Algebra.agda [hunk 23]
```diff
@@ -0,0 +1,229 @@
...
+  grIso : GroupIso A B
+  map grIso = map' i
+  inv grIso b = (rec (helper b) (λ a → a) (surj i b)) .fst
+  rightInv grIso b = (rec (helper b) (λ a → a) (surj i b)) .snd
+  leftInv grIso b j = rec (helper (f b)) (λ a → a) (propTruncIsProp (surj i (f b)) ∣ b , refl ∣ j) .fst
+
+BijectionIsoToGroupEquiv : {A : Group {ℓ}} {B : Group {ℓ'}} → BijectionIso A B → GroupEquiv A B
+BijectionIsoToGroupEquiv i = GrIsoToGrEquiv (BijectionIsoToGroupIso i)
+
+vSES→GroupIso : ∀ {ℓ ℓ' ℓ'' ℓ'''} {A : Group {ℓ}} {B : Group {ℓ'}} (leftGr : Group {ℓ''}) (rightGr : Group {ℓ'''})
```
Comment (mortberg) [inline Cubical/Structures/Group/Algebra.agda:189]: Can't you quantify over levels at the top? Also, \ell''' isn't very nice... How about using \_3 instead?

File: Cubical/Structures/Group/Algebra.agda [hunk 24]
```diff
@@ -0,0 +1,229 @@
...
+                            (Ker-ϕ⊂Im-left vses a inker)
+  surj theIso a = Ker-right⊂Im-ϕ vses a (isTrivialRight vses _ _)
+
+vSES→GroupEquiv : ∀ {ℓ ℓ' ℓ'' ℓ'''} {A : Group {ℓ}} {B : Group {ℓ'}} (leftGr : Group {ℓ''}) (rightGr : Group {ℓ'''})
+        → vSES A B leftGr rightGr
+        → GroupEquiv A B
+vSES→GroupEquiv {A = A} lGr rGr vses = GrIsoToGrEquiv (vSES→GroupIso lGr rGr vses)
+
+-- The trivial group is a unit.
+open import Cubical.Data.Unit
```
Comment (mortberg) [inline Cubical/Structures/Group/Algebra.agda:209]: Move import up

File: Cubical/Structures/Group/Base.agda [hunk 25]
```diff
@@ -31,8 +33,15 @@ record IsGroup {G : Type ℓ}
...
-record Group : Type (ℓ-suc ℓ) where
+η-isGroup : {G : Type ℓ} {0g 0g' : G} {_+_ _+'_  : G → G → G} { -_ -'_  : G → G}
+         → 0g ≡ 0g'
+         → _+_ ≡ _+'_
+         → -_ ≡ -'_
+         → IsGroup 0g _+_ -_ ≡ IsGroup 0g' _+'_ -'_
+η-isGroup id1 id2 id3 i = IsGroup (id1 i) (id2 i) (id3 i)
 
+record Group : Type (ℓ-suc ℓ) where
+  no-eta-equality
```
Comment (mortberg) [inline Cubical/Structures/Group/Base.agda:44]: Do you really need this no-eta-equality? I would have thought it's enough to have it for IsGroup as that contains the proofs

File: Cubical/Structures/Group/Base.agda [hunk 26]
```diff
@@ -163,3 +179,66 @@ makeGroup-left {A = A} id comp inv set assoc lUnit lCancel =
...
+Carrier (η-Group p _ _ _ _ i) = p i
+0g (η-Group _ q _ _ _ i) = q i
+_+_ (η-Group _ _ r _ _ i) = r i
+- η-Group _ _ _ s t i = s i
+isGroup (η-Group _ _ _ _ t i) = t i
+
+isSetCarrier : ∀ {ℓ} → (G : Group {ℓ}) → isSet ⟨ G ⟩
+isSetCarrier G = IsSemigroup.is-set (IsMonoid.isSemigroup (isMonoid (isGroup G)))
+
+open import Cubical.Foundations.HLevels
```
Comment (mortberg) [inline Cubical/Structures/Group/Base.agda:204]: Move import to the top. Also, do you need to open both IsMonoid and IsSemigroup?

File: Cubical/Structures/Group/Base.agda [hunk 27]
```diff
@@ -163,3 +179,66 @@ makeGroup-left {A = A} id comp inv set assoc lUnit lCancel =
...
+assoc (isSemigroup (isMonoid (isGroup (dirProd A B)))) x y z i =
+  assoc (isGroup A) (fst x) (fst y) (fst z) i , assoc (isGroup B) (snd x) (snd y) (snd z) i
+identity (isMonoid (isGroup (dirProd A B))) x =
+   (λ i → IsGroup.rid (isGroup A) (fst x) i , IsGroup.rid (isGroup B) (snd x) i)
+ , λ i → IsGroup.lid (isGroup A) (fst x) i , IsGroup.lid (isGroup B) (snd x) i
+inverse (isGroup (dirProd A B)) x =
+    (λ i → (fst (inverse (isGroup A) (fst x)) i) , (fst (inverse (isGroup B) (snd x)) i))
+  , λ i → (snd (inverse (isGroup A) (fst x)) i) , (snd (inverse (isGroup B) (snd x)) i)
+
+open import Cubical.Data.Unit
```
Comment (mortberg) [inline Cubical/Structures/Group/Base.agda:223]: Move up

File: Cubical/Structures/Group/Base.agda [hunk 28]
```diff
@@ -163,3 +179,66 @@ makeGroup-left {A = A} id comp inv set assoc lUnit lCancel =
...
+0g trivialGroup = _
+_+_ trivialGroup _ _ = _
+-_ trivialGroup _ = _
+is-set (isSemigroup (isMonoid (isGroup trivialGroup))) = isSetUnit
+assoc (isSemigroup (isMonoid (isGroup trivialGroup))) _ _ _ = refl
+identity (isMonoid (isGroup trivialGroup)) _ = refl , refl
+inverse (isGroup trivialGroup) _ = refl , refl
+
+
+open import Cubical.Data.Int renaming (_+_ to _+Int_ ; _-_ to _-Int_)
```
Comment (mortberg) [inline Cubical/Structures/Group/Base.agda:235]: Move up the import. We should probably move this to Data.Int as well, but let's do it in a separate PR

File: Cubical/Structures/Group/MorphismProperties.agda [hunk 29]
```diff
@@ -28,63 +28,84 @@ private
   variable
     ℓ ℓ' ℓ'' : Level
 
+infixr 31 _□_
+
+open Group
+open GroupHom
+open IsMonoid
+open IsSemigroup
+open IsGroup
```
Comment (mortberg) [inline Cubical/Structures/Group/MorphismProperties.agda:37]: Do you need to open all of these?

File: Cubical/Structures/Group/MorphismProperties.agda [hunk 30]
```diff
@@ -28,63 +28,84 @@ private
...
 compGroupEquiv : {F : Group {ℓ}} {G : Group {ℓ'}} {H : Group {ℓ''}} → GroupEquiv F G → GroupEquiv G H → GroupEquiv F H
-compGroupEquiv {F = F} {G = G} {H = H} f g =
-  groupequiv (compEquiv f.eq g.eq) (isGroupHomComp f.hom g.hom) where
-  module f = GroupEquiv f
-  module g = GroupEquiv g
+eq (compGroupEquiv f g) = compEquiv (eq f) (eq g)
+isHom (compGroupEquiv f g) = isHom (compGroupHom (hom f) (hom g))
+
+_□_ : _
+_□_ = compGroupEquiv
```
Comment (mortberg) [inline Cubical/Structures/Group/MorphismProperties.agda:63]: Do you use this?

File: Cubical/Structures/Monoid.agda [hunk 31]
```diff
@@ -43,7 +41,7 @@ record IsMonoid {A : Type ℓ} (ε : A) (_·_ : A → A → A) : Type ℓ where
 
 
 record Monoid : Type (ℓ-suc ℓ) where
-
+  no-eta-equality
```
Comment (mortberg) [inline Cubical/Structures/Monoid.agda:44]: Same here. I'm surprised you need this

File: Cubical/ZCohomology/Properties.agda [hunk 32]
```diff
@@ -206,21 +213,135 @@ commₕ {n = n} = sElim2 (λ _ _ → isOfHLevelPath 1 (§ _ _))
...
+                                                              (λ i → ΩKn+1→Kn (sym (Kn→ΩKn+10ₖ (suc n) i))) ∙
+                                                              (λ i → ΩKn+1→Kn (Kn→ΩKn+10ₖ (suc n) (~ i))) ∙
+                                                              Iso.leftInv (Iso3-Kn-ΩKn+1 (suc n)) ∣ north ∣ ∣₂}
 
 0ₕ∙ : {A : Pointed ℓ} (n : ℕ) → coHomRed n A
 0ₕ∙ zero = ∣ (λ _ → 0ₖ) , refl ∣₂
 0ₕ∙ (suc n) = ∣ (λ _ → 0ₖ) , refl ∣₂
+
+open import Cubical.Structures.Semigroup
+open import Cubical.Structures.Monoid
```
Comment (mortberg) [inline Cubical/ZCohomology/Properties.agda:274]: Move imports to the top

**Comment by mortberg** [comment]
PS: I of course forgot to mention the most important thing: the math in this PR is really great! :-)

I think it's really nice that we can do Z-cohomology cubically as well. It will be interesting to compare with some of the HoTT formalizations.

File: Cubical/Data/Prod/Properties.agda (hunk 7 above)
Comment (aljungstrom) [reply Cubical/Data/Prod/Properties.agda:24]: No. I guess this is why it's better to use the product defined in Sigma.Base (for this we don't need to match). I don't use this product type anymore after Guillaume told me to use the Sigma version, so I guess this lemma is not really needed. But maybe it should be there anyway, just for completeness.

File: Cubical/Foundations/Isomorphism.agda (hunk 13 above)
Comment (aljungstrom) [reply Cubical/Foundations/Isomorphism.agda:131]: hehe yeah, I just improvised since Guillaume thought it would be appropriate to have something like this for my massive compositions. Is it better if I just import compIso as ⋄ (or perhaps some more appropriate symbol better) in my modules? The problem then is that I have to add infixr everytime, right? Alternatively, I can add infixr to compIso.

File: Cubical/Structures/CommRing.agda (hunk 21 above)
Comment (aljungstrom) [reply Cubical/Structures/CommRing.agda:142]: on line 130:-)

File: Cubical/Structures/Group/Base.agda (hunk 25 above)
Comment (aljungstrom) [reply Cubical/Structures/Group/Base.agda:44]: I do actually. Addition runs through the Freudenthal suspension theorem, so there are some pretty heavy proofs there too.

File: Cubical/Foundations/Isomorphism.agda (hunk 13 above)
Comment (aljungstrom) [reply Cubical/Foundations/Isomorphism.agda:131]: Oh wait, I don't think I even use this hehe... I could just remove it if you want.

File: Cubical/Structures/Monoid.agda (hunk 31 above)
Comment (aljungstrom) [reply Cubical/Structures/Monoid.agda:44]: Just checked. Don't think I do need it in the end. Do you want me to remove it? I've grown quite fond of no-eta after working on this project...

File: Cubical/Data/Prod/Properties.agda (hunk 7 above)
Comment (aljungstrom) [reply Cubical/Data/Prod/Properties.agda:24]: Oh, I mean "yes", of course...

File: Cubical/Foundations/Prelude.agda (hunk 14 above)
Comment (aljungstrom) [reply Cubical/Foundations/Prelude.agda:171]: I'll try to fix this as best I can. It's right in my emacs, but I guess I can try shifting things to the left one step.

File: Cubical/Foundations/Prelude.agda (hunk 15 above)
Comment (aljungstrom) [reply Cubical/Foundations/Prelude.agda:192]: I just wanted to be consistent with what is done with compPathP

File: Cubical/HITs/S1/Base.agda (hunk 17 above)
Comment (aljungstrom) [reply Cubical/HITs/S1/Base.agda:263]: I think my proof is the only proof that is being used anywhere else, so I guess I'll put the other one in private.

File: Cubical/Structures/Group/Base.agda (hunk 26 above)
Comment (aljungstrom) [reply Cubical/Structures/Group/Base.agda:204]: Yeah, I need them for this to run. I could of course skip them, but the lines get so long and ugly if I do (they are already pretty ugly as they are).

File: Cubical/Structures/Group/MorphismProperties.agda (hunk 29 above)
Comment (aljungstrom) [reply Cubical/Structures/Group/MorphismProperties.agda:37]: For this to run yes. Again, I could remove them if you want me to but then things get longer later.

File: Cubical/Structures/Group/MorphismProperties.agda (hunk 30 above)
Comment (aljungstrom) [reply Cubical/Structures/Group/MorphismProperties.agda:63]: Yes, in ZCohomology/Groups

**Comment by aljungstrom** [comment]
> I had plenty of small suggestions for improvements, if you fix them before the end of Friday I'll merge. :-) In the future I think we'll be stricter about not allowing gigantic PRs like this which changes many unrelated things. It's very hard to review and merge big ones like this. You could have had maybe 5-10 separate PRs for this which build on each other. That way a lot of the work could have been merged a lot sooner and the code could have been updated in the many PRs that has been merged in the last month.

Hehe yeah, sorry about the length. I get so sucked into whatever I am doing that I forget about these more practical things...

> One thing I really wonder is if you really need no-eta-equality for both the IsX and the X records. I would have thought you only would need it for the IsX records. Did you test doing it this way?

I've said this in a reply already, but I'll say it again anyway: it seems I really do need no-eta for Group. My guess is that this is because + and - are so complicated for the cohomology groups. It was probably overkill to remove it from the other ones though. Do you want to have eta for e.g. Monoid?

> We should have another PR after this one which cleans up and organizes all of the theory about groups. One thing that should be done is to move the proofs that Unit and Int are groups to a better place than Group.Base

Yeah, I agree. I actually had made a module called GroupLibrary or something which I thought could contain some elementary groups. But it looked to sad with only the trivial group and the group of integers in there, so I removed it.

File: Cubical/Data/Prod/Properties.agda (hunk 7 above)
Comment (mortberg) [reply Cubical/Data/Prod/Properties.agda:24]: Ah right, let's keep this one for completeness

File: Cubical/Foundations/Isomorphism.agda (hunk 13 above)
Comment (mortberg) [reply Cubical/Foundations/Isomorphism.agda:131]: Yeah, let's just remove it and have a separate discussion about notations for compIso and compEquiv. If we introduce an infix operation for these we should use them consistently throughout the library. So if we decide to do this it should go into a separate PR doing only that

File: Cubical/Foundations/Prelude.agda (hunk 14 above)
Comment (mortberg) [reply Cubical/Foundations/Prelude.agda:171]: Oh, then it's probably just the font in my browser. Let's keep it if looks good in emacs

File: Cubical/Foundations/Prelude.agda (hunk 15 above)
Comment (mortberg) [reply Cubical/Foundations/Prelude.agda:192]: Ok, let's keep it as is and have a separate PR moving these and maybe redefining them

File: Cubical/Structures/Group/MorphismProperties.agda (hunk 29 above)
Comment (mortberg) [reply Cubical/Structures/Group/MorphismProperties.agda:37]: I thought Group would open IsMonoid, IsSemigroup and IsGroup automatically for you...

Comment (mortberg) [reply Cubical/Structures/Group/MorphismProperties.agda:37]: Look at this: https://github.com/agda/cubical/blob/master/Cubical/Structures/Group/Base.agda#L48

They should recursively open things for you. Did you try to only open Group and GroupHom?

Comment (mortberg) [reply Cubical/Structures/Group/MorphismProperties.agda:37]: Look at this: https://github.com/agda/cubical/blob/master/Cubical/Structures/Group/Base.agda#L48

They should recursively open things for you. Did you try to only open Group and GroupHom?

File: Cubical/Structures/Group/Base.agda (hunk 25 above)
Comment (mortberg) [reply Cubical/Structures/Group/Base.agda:44]: I see. We should take a close look at this together. I'm very suspicious that something needs to be optimized in the definition of the operations.

File: Cubical/Structures/Group/MorphismProperties.agda (hunk 30 above)
Comment (mortberg) [reply Cubical/Structures/Group/MorphismProperties.agda:63]: Can you just rename it locally in this file by importing the compGroupEquiv using this name? It's not good to pollute the global name space with notations like this

File: Cubical/Structures/Monoid.agda (hunk 31 above)
Comment (mortberg) [reply Cubical/Structures/Monoid.agda:44]: Yeah, please remove it. I think we should have as much eta as possible as it simplifies proofs.

**Comment by mortberg** [comment]
It seems like you didn't push any of the new changes?

What is left to fix:

- Why do you have to open so many things? Opening Group should recursively open IsGroup, IsMonoid, ...

- Remove all global binary operations names various compositions. The best is probably to rename these operations when importing them for now. 

- Remove no-eta for monoids

**Comment by aljungstrom** [comment]
> It seems like you didn't push any of the new changes?

Ah no, I wanted you to reply first:-) I will fix the last bits after work today.

> Assuming that you had fixed all of my small comments, what is left to fix is:
>
> * Why do you have to open so many things? Opening Group should recursively open IsGroup, IsMonoid, ...
Are you sure? This doesn't seem to happen for me.
> * Remove all global binary operations names for various compositions. The best is probably to rename these operations when importing them for now.
> * Remove no-eta for monoids

**Comment by aljungstrom** [comment]
> Are you sure? This doesn't seem to happen for me.
Sorry, of course just me being silly:-)

**Comment by aljungstrom** [comment]
> > Are you sure? This doesn't seem to happen for me.
> 
> Sorry, of course just me being silly:-)

Oh, or maybe not that silly. When I do stuff with copatterns, Agda still wants IsGroup.blabla everytime instead just of blabla if I don't also open isGroup.

**Comment by mortberg** [comment]
> > > Are you sure? This doesn't seem to happen for me.
> > 
> > 
> > Sorry, of course just me being silly:-)
> 
> Oh, or maybe not that silly. When I do stuff with copatterns, Agda still wants IsGroup.blabla everytime instead just of blabla if I don't also open isGroup.

That sounds very weird. Agda bug @Saizan @guillaumebrunerie ?

File: Cubical/Foundations/Prelude.agda (hunk 15 above)
Comment (ecavallo) [reply Cubical/Foundations/Prelude.agda:192]: compPathP and others were organized this way in https://github.com/agda/cubical/pull/258.

File: Cubical/Structures/AbGroup.agda [hunk 33]
```diff
@@ -135,9 +131,9 @@ module AbGroupΣTheory {ℓ} where
     0g (helper2 a i) = 0g a
     _+_ (helper2 a i) = _+_ a
     - helper2 a i = - a
-    isMonoid (isGroup (isAbGroup (helper2 a i))) = η-isMonoid (isMonoid (isGroup (isAbGroup a))) i
-    inverse (isGroup (isAbGroup (helper2 a i))) = inverse (isGroup (isAbGroup a))
-    comm (isAbGroup (helper2 a i)) = comm (isAbGroup a)
+    IsGroup.isMonoid (IsAbGroup.isGroup (isAbGroup (helper2 a i))) = η-isMonoid (isMonoid a) i
```
Comment (mortberg) [inline Cubical/Structures/AbGroup.agda:134]: Can't you just write `isMonoid (helper2 a i) = η-isMonoid (isMonoid a) i` ?

File: Cubical/Structures/Group/Base.agda [hunk 34]
```diff
@@ -242,3 +240,16 @@ is-set (isSemigroup (isMonoid (isGroup intGroup))) = isSetInt
 assoc (isSemigroup (isMonoid (isGroup intGroup))) = +-assoc
 identity (isMonoid (isGroup intGroup)) x = refl , (+-comm (pos 0) x)
 inverse (isGroup intGroup) x = +-comm x (pos 0 -Int x) ∙ minusPlus x 0 , (minusPlus x 0)
+
+
+dirProd' : Group₀ → Group₀ → Group₀
```
Comment (mortberg) [inline Cubical/Structures/Group/Base.agda:245]: What is this? Why '? Please add a comment

File: Cubical/Structures/AbGroup.agda (hunk 33 above)
Comment (aljungstrom) [reply Cubical/Structures/AbGroup.agda:134]: No, I still have no-eta for isMonoid. Maybe you wanted me to remove that too?

File: Cubical/Structures/Group/Base.agda (hunk 34 above)
Comment (aljungstrom) [reply Cubical/Structures/Group/Base.agda:245]: Oh wups, that's some silly exeperiment that I forgot to delete

File: Cubical/Data/Empty/Base.agda [hunk 35]
```diff
@@ -10,3 +10,6 @@ rec ()
 
 elim : ∀ {ℓ} {A : ⊥ → Type ℓ} → (x : ⊥) → A x
 elim ()
+
+nope : ∀ {ℓ} (A : Type ℓ) → Type ℓ
```
Comment (mortberg) [inline Cubical/Data/Empty/Base.agda:14]: I think this should be `rec`?

Comment (aljungstrom) [reply Cubical/Data/Empty/Base.agda:14]: wuups... this is just me goofing around, I didn't mean to push this stuff

File: Cubical/Structures/AbGroup.agda (hunk 33 above)
Comment (mortberg) [reply Cubical/Structures/AbGroup.agda:134]: My comment wasn't about eta? I just wonder why you need all of the qualified projections when isMonoid from AbGroup should be in scope

File: Cubical/Data/Empty/Base.agda (hunk 35 above)
Comment (mortberg) [reply Cubical/Data/Empty/Base.agda:14]: I think it's a fine addition if it's called rec. :-)

Do you know `git gui`? It lets you select exactly what goes into a commit. I use it *all the time*. That way you can much easier get an overview of what to include in a commit. You can also easily commit chunks or even lines of different files separately.

Comment (mortberg) [reply Cubical/Data/Empty/Base.agda:14]: Typically I would fix all of the comments on my PR like you have done, but then commit the changes in smaller chunks corresponding to every fix using `git gui`. That way it's much easier to revert a commit in case the changes turn out to be unnecessary.

File: Cubical/Structures/AbGroup.agda (hunk 33 above)
Comment (aljungstrom) [reply Cubical/Structures/AbGroup.agda:134]: Ah sorry, misread. I get:

Cannot eliminate type  AbGroup  with projection  isMonoid when checking the clause left hand side isMonoid (helper2 a i)

File: Cubical/Data/Empty/Base.agda (hunk 35 above)
Comment (aljungstrom) [reply Cubical/Data/Empty/Base.agda:14]: > I think it's a fine addition if it's called rec. :-)

Ah, but that's already in there. `nope` was just supposed to be negation.

> Do you know `git gui`? It lets you select exactly what goes into a commit. I use it _all the time_. That way you can much easier get an overview of what to include in a commit. You can also easily commit chunks or even lines of different files separately.

Oh yeah, I should start using that for sure...

File: Cubical/Structures/AbGroup.agda (hunk 33 above)
Comment (mortberg) [reply Cubical/Structures/AbGroup.agda:134]: Ok, very strange! Can you please add a "TODO: investigate why we need all of the qualified projections" comment so that I might remember to look into it at some point. I would like the library to be as easy to use as possible and having to write this long chain of projections will never scale to more deeply nested algebraic structures

File: Cubical/Data/Empty/Base.agda (hunk 35 above)
Comment (mortberg) [reply Cubical/Data/Empty/Base.agda:14]: Oops, I didn't look closely enough at what `nope` was... Then please just remove it :-) We already have negation in Relation.Unary

**Comment by aljungstrom** [comment]
@mortberg Alright, I think that's that. Thanks for the comments and for reading through this way too long PR. I hope everything looks ok now.

**Comment by mortberg** [comment]
Perfect! And Travis is happy so I'll merge

**Comment by Edlyr** [comment]
I get the use of no-eta for Groups and other structures, but is it really necessary for group homomorphisms and equivalences ?

**Comment by mortberg** [comment]
> I get the use of no-eta for Groups and other structures, but is it really necessary for group homomorphisms and equivalences ?

Yeah, I wonder if those are strictly necessary. If you can get the Z-cohomology stuff to typecheck in reasonable time with eta then we should have them. More eta is always better, but it can get very expensive for very complex definitions.
